US09029560B2
Preparation of 3-(2′,3′,4′,5′-tetrahydro-[1,1′-biphenyl]-4-yl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole (CB10)
The title compound was prepared as described in Example 10 using 3-(4-bromophenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole (C52) with tetrakis(triphenylphosphine)palladium(0) as catalyst, sodium carbonate as base and heating to 100° C. for 3 hours; isolated as an orange solid (2.18 g, 57%, 79% pure): 1H NMR (400 MHz, CDCl3) δ 8.56 (s, 1H), 8.15-8.06 (m, 2H), 7.80 (dd, J=9.0, 2.3 Hz, 2H), 7.50 (d, J=8.4 Hz, 2H), 7.39 (ddd, J=8.0, 2.5, 1.3 Hz, 2H), 6.28-6.21 (m, 1H), 2.46 (ddt, J=6.3, 4.1, 2.0 Hz, 2H), 2.24 (dtd, J=6.3, 3.8, 1.8 Hz, 2H), 1.85-1.75 (m, 2H), 1.71-1.63 (m, 2H); 19F NMR (376 MHz, DMSO-d6) δ −58.03; ESIMS m/z 386 ([M+H]+).

reactant | 3-(4-bromophenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole | BrC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C15H9BrF3N3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(2′,3′,4′,5′-tetrahydro-[1,1′-biphenyl]-4-yl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole | C1(=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F)C=1CCCCC1 | C21H18F3N3O
